US06506782B1
Synthesis of 2-(3,5-Difluorophenylmethyl)-4-carboxy-2-thiazoline
Following General Procedure G and using 3,5-difluorophenylacetonitrile and L-cysteine ethyl ester hydrochloride (Aldrich), the title compound was prepared.

reactant | 3,5-difluorophenylacetonitrile | FC=1C=C(C=C(C1)F)CC#N | C8H5F2N
reactant | L-cysteine ethyl ester hydrochloride | Cl.C(C)OC([C@@H](N)CS)=O
product | 2-(3,5-Difluorophenylmethyl)-4-carboxy-2-thiazoline | FC=1C=C(C=C(C1)F)CC=1SCC(N1)C(=O)O | C11H9F2NO2S
